US07825253B2
N5-(2-Methoxy-benzyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=374.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 2-methoxybenzylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
product | N5-(2-Methoxy-benzyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | COC1=C(CNC=2C=3C=CC(=NC3C=CC2)NCC=2OC(=CC2)C)C=CC=C1 | C23H23N3O2
